US06953806B2
A solution of 200 mg (0.43 mmol) trans-methanesulfonic acid 3-(4-{2-[methyl-(4-trifluoromethyl-phenoxycarbonyl)-amino]-ethyl}-cyclohexyl)-propyl ester and 0.204 ml (2.15 mmol) of allyl methyl amine in 2 ml of N,N-dimethylacetamide was stirred over night at 60° C. The reaction mixture was then taken up in ether and the ether phases were washed with water. The organic layer was dried over magnesium sulfate, concentrated under reduced pressure and the residue then chromatographed on silica gel with a 9:1 v/v mixture of dichloromethane and 1N ammonia in methanol as the eluent giving 124 mg (65.5%) trans-(2-{4-[3-(allyl-methyl-amino)-propyl]-cyclohexyl}-ethyl)-methyl-carbamic acid 4-trifluoromethyl-phenyl ester as colorless viscous oil, MS: 441 (MH+).

reactant | trans-methanesulfonic acid 3-(4-{2-[methyl-(4-trifluoromethyl-phenoxycarbonyl)-amino]-ethyl}-cyclohexyl)-propyl ester | 0.43 mmol, 200 mg | CN(CC[C@@H]1CC[C@H](CC1)CCCOS(=O)(=O)C)C(=O)OC1=CC=C(C=C1)C(F)(F)F | C21H30F3NO5S
reactant | allyl methyl amine | 2.15 mmol, 0.204 ml | C(C=C)NC | C4H9N
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
solvent | ether | CCOCC | C4H10O
product | trans-(2-{4-[3-(allyl-methyl-amino)-propyl]-cyclohexyl}-ethyl)-methyl-carbamic acid 4-trifluoromethyl-phenyl ester | 124 mg, 65.5% | FC(C1=CC=C(C=C1)OC(N(C)CC[C@@H]1CC[C@H](CC1)CCCN(C)CC=C)=O)(F)F | C24H35F3N2O2
